US08912176B2
Preparation of tert-butyl 4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane-1-carboxylate
To a stirred solution of tert-butyl 4-(azetidin-3-ylcarbonyl)-1,4-diazepane-1-carboxylate (1.02 g, 3.6 mmol) and DIPEA (1.41 g, 10.8 mmol) in DCM (20 mL) was added a solution of 6-methylpyridine-3-carbonyl chloride (420 mg, 4.32 mmol) in DCM (5 mL) at 0° C. After 3 hours the reaction was diluted with DCM (10 mL), washed with saturated aqueous NaHCO3 (10 mL), brine (5 mL), dried (MgSO4), filtered and concentrated at reduced pressure. Purification by silica FCC (eluting with 100:0:0 to 95:4.5:0.5 gradient of DCM/MeOH/NH3) gave the title compound (527 mg, 36%) as an orange-brown oil.

reactant | tert-butyl 4-(azetidin-3-ylcarbonyl)-1,4-diazepane-1-carboxylate | 3.6 mmol, 1.02 g | N1CC(C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C14H25N3O3
reactant | DIPEA | 10.8 mmol, 1.41 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-methylpyridine-3-carbonyl chloride | 4.32 mmol, 420 mg | CC1=CC=C(C=N1)C(=O)Cl | C7H6ClNO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane-1-carboxylate | 527 mg, 36% | CC1=CC=C(C=N1)C(=O)N1CC(C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C21H30N4O4
